Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:16][CH2:17][O:18][C:19](=[O:20])[C:21](=[O:22])[c:23]1[cH:24][s:25][c:26]([NH2:27])[n:28]1.[CH3:1][O:2][c:3]1[cH:4][c:5]([N:6]=[C:7]=[O:8])[cH:9][c:10]([O:11][CH3:12])[c:13]1[O:14][CH3:15]>>[CH3:1][O:2][c:3]1[cH:4][c:5]([NH:6][C:7](=[O:8])[NH:27][c:26]2[s:25][cH:24][c:23]([C:21]([C:19]([O:18][CH2:17][CH3:16])=[O:20])=[O:22])[n:28]2)[cH:9][c:10]([O:11][CH3:12])[c:13]1[O:14][CH3:15],[CH3:1][O:2][c:3]1[cH:4][c:5]([N:6]=[C:7]=[O:8])[cH:9][c:10]([O:11][CH3:12])[c:13]1[O:14][CH3:15].[CH3:16][CH2:17][O:18][C:19](=[O:20])[C:21](=[O:22])[c:23]1[cH:24][s:25][c:26]([NH2:27])[n:28]1>>[CH3:1][O:2][c:3]1[cH:4][c:5]([NH:6][C:7](=[O:8])[NH:27][c:26]2[s:25][cH:24][c:23]([C:21]([C:19]([O:18][CH2:17][CH3:16])=[O:20])=[O:22])[n:28]2)[cH:9][c:10]([O:11][CH3:12])[c:13]1[O:14][CH3:15],nucleophilic_attack_to_iso(thio)cyanate,"[(27, 7), ([7, 8], 8), (8, 27.1), ([27.1, 27], 27), (8, [8, 7]), ([7, 6], 6), (6, 8.1), ([8.1, 8], 8)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2](=[O:3])OC(C)=O.[CH3:4][O:5][c:6]1[cH:7][c:8]2[n:9][cH:10][n:11][c:12]([NH:13][c:14]3[cH:15][cH:16][cH:17][c:18]([Cl:19])[c:20]3[F:21])[c:22]2[cH:23][c:24]1[O:25][CH2:26][CH:27]1[CH2:28][CH2:29][NH:30][CH2:31]1>>[CH3:1][C:2](=[O:3])[N:30]1[CH2:29][CH2:28][CH:27]([CH2:26][O:25][c:24]2[c:6]([O:5][CH3:4])[cH:7][c:8]3[n:9][cH:10][n:11][c:12]([NH:13][c:14]4[cH:15][cH:16][cH:17][c:18]([Cl:19])[c:20]4[F:21])[c:22]3[cH:23]2)[CH2:31]1,[CH3:4][O:5][c:6]1[cH:7][c:8]2[n:9][cH:10][n:11][c:12]([NH:13][c:14]3[cH:15][cH:16][cH:17][c:18]([Cl:19])[c:20]3[F:21])[c:22]2[cH:23][c:24]1[O:25][CH2:26][CH:27]1[CH2:28][CH2:29][NH:30][CH2:31]1.CC(=O)[O:101][C:2]([CH3:1])=[O:3]>>[CH3:1][C:2](=[O:3])[N:30]1[CH2:29][CH2:28][CH:27]([CH2:26][O:25][c:24]2[c:6]([O:5][CH3:4])[cH:7][c:8]3[n:9][cH:10][n:11][c:12]([NH:13][c:14]4[cH:15][cH:16][cH:17][c:18]([Cl:19])[c:20]4[F:21])[c:22]3[cH:23]2)[CH2:31]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(30, 2), ([2, 3], 3), (3, [3, 2]), ([2, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][n:17]1)=[O:18].[CH3:19][N:20]1[CH2:21][CH2:22][CH:23]([N:24]2[CH2:25][CH2:26][NH:27][CH2:28][CH2:29]2)[CH2:30][CH2:31]1>>[C:1]([C@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][n:17]1)(=[O:18])[N:27]1[CH2:26][CH2:25][N:24]([CH:23]2[CH2:22][CH2:21][N:20]([CH3:19])[CH2:31][CH2:30]2)[CH2:29][CH2:28]1,[OH:101][C:1]([C@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][n:17]1)=[O:18].[CH3:19][N:20]1[CH2:21][CH2:22][CH:23]([N:24]2[CH2:25][CH2:26][NH:27][CH2:28][CH2:29]2)[CH2:30][CH2:31]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@H:2]([NH:3][C:4]([O:5][C:6]([CH3:7])([CH3:8])[CH3:9])=[O:10])[CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][n:17]1)(=[O:18])[N:27]1[CH2:26][CH2:25][N:24]([CH:23]2[CH2:22][CH2:21][N:20]([CH3:19])[CH2:31][CH2:30]2)[CH2:29][CH2:28]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (27, 1), ([1, 18], 18), (303, 27.1), ([27.1, 27], 27), (18, [18, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][n:8][cH:9]1.[CH3:10][O:11][C:12](=[O:13])[CH2:14][N:15]=[N+:16]=[N-:17]>>[CH:1](\[c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][n:8][cH:9]1)=[C:14](/[C:12]([O:11][CH3:10])=[O:13])[N:15]=[N+:16]=[N-:17],[O:101]=[CH:1][c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][n:8][cH:9]1.[CH3:10][O:11][C:12](=[O:13])[CH2:14][N:15]=[N+:16]=[N-:17].[OH-:301]>>[CH:1](\[c:2]1[c:3]([O:4][CH3:5])[cH:6][cH:7][n:8][cH:9]1)=[C:14](/[C:12]([O:11][CH3:10])=[O:13])[N:15]=[N+:16]=[N-:17],aldol_condensation,"[(301, 14.1), ([14.1, 14], [14, 12]), ([12, 13], 13), (13, [13, 12]), ([12, 14], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 14.1), ([14.1, 14], [14, 12]), ([12, 13], 13), (13, [13, 12]), ([12, 14], [14, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
